US04774013
110 g of spiro[cyclohexane-1,9'-fluorene] obtained in the above (1), 100 ml of cyclohexane solvent and 20 g of 5% ruthenium-carbon catalyst (manufactured by Japan Engelhard Co.) were charged in an autoclave of 1 liter and hydrogenation was effected with a hydrogen pressure of 80 kg/cm2G at 170° C. for 5 hours.

reactant | cyclohexane | 100 ml | C1CCCCC1 | C6H12
catalyst | ruthenium-carbon | 20 g | [C].[Ru]
product | spiro[cyclohexane-1,9'-fluorene] | 110 g | C1=CC=CC=2C3=CC=CC=C3C3(C12)CCCCC3 | C18H18
